US05137905
Part B. 1,3-Dihydro-methyl-3-(2-propynyl)-2H-imidazol-2-one
Methyl isocyanate (1.3 g, 0.02 mol) was added to a stirred solution of 2,2-diethoxy-N-(2-propynyl)ethylamine (3.4 g, 0.02 mol) in ether (50 mL). After 30 min the ether was evaporated and the residue was dissolved in water (50 mL), oxalic acid (1.7 g) was added, and the solution was heated at 50° C. for 30 min. The solution was then concentrated to 10 mL and neutralized with 4N NaOH solution, and extracted with ethyl acetate (4×50 mL). The ethyl acetate was evaporated and the residue was chromatographed on silica gel to give 2.1 g of product which was recrystallized from ethyl acetate:Skellysolve B; m.p. 69°-72° C.

reactant | Methyl isocyanate | 0.02 mol, 1.3 g | CN=C=O | C2H3NO
reactant | 2,2-diethoxy-N-(2-propynyl)ethylamine | 0.02 mol, 3.4 g | C(C)OC(CNCC#C)OCC | C9H17NO2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 1,3-Dihydro-methyl-3-(2-propynyl)-2H-imidazol-2-one | 2.1 g | CN1C(N(C=C1)CC#C)=O | C7H8N2O
